US07655686B2
a) (2R,4S)-4-fluoro-2-(2-oxo-ethyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
1 g (3.5 mmol) (2R,4S)-2-allyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester is dissolved in 60 mL dichloromethane/methanol 1:1, cooled to −78° C., flushed with oxygen for two minutes then treated with a flux of ozone until the solution turns light blue. The solution is allowed to warm up to room temperature after addition of 1 g (1.1 eq.) triphenylphosphine, stirred an additional 5 h and column chromatographed (silica gel, TBME/petroleum ether 3:2) to yield 870 mg of the desired product as a clear oil.

reactant | (2R,4S)-2-allyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 3.5 mmol, 1 g | COC(=O)[C@@]1(N(C[C@H](C1)F)C(=O)OC(C)(C)C)CC=C | C14H22FNO4
reactant | triphenylphosphine | 1 g, 1.1 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane methanol | 60 mL | ClCCl.CO
product | (2R,4S)-4-fluoro-2-(2-oxo-ethyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 870 mg | COC(=O)[C@@]1(N(C[C@H](C1)F)C(=O)OC(C)(C)C)CC=O | C13H20FNO5
